US06552188B2
Synthesis of N-(4-phenylbenzoyl)-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine
1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine (103 mg) and 4-phenylbenzoyl chloride (45 mg) were reacted in the same manner as in Example 46 to obtain the title compound as a free base.

reactant | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine | 103 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCNCC1 | C19H25N3O3
reactant | 4-phenylbenzoyl chloride | 45 mg | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
product | N-(4-phenylbenzoyl)-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine | C1(=CC=CC=C1)C1=CC=C(C(=O)N2CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C32H33N3O4
